US05705504
N-Methyl-N-phenylaminoacetic acid
To a solution of N-phenylglycine (5 g, 33 mmol) and formaldehyde (37% aqueous solution, 20 mL) in acetonitrile (100 mL) was added NaBH3CN (6.8 g) and AcOH (2 mL) and the reaction mixture was stirred at room temperature overnight. Volatiles were removed in vacuo, the residue was acidified to pH=3-4 and extracted with CHCl3 several times. The combined organic extracts were dried and concentrated to afford a crude product (5.73 g), which was purified by chromatography on silica gel (EtOAc) to afford the title compound (3.96 g, 73%).

reactant | N-phenylglycine | 33 mmol, 5 g | C1(=CC=CC=C1)NCC(=O)O | C8H9NO2
reactant | formaldehyde | 20 mL | C=O | CH2O
reactant | NaBH3CN | 6.8 g | [BH3-]C#N.[Na+]
reactant | AcOH | 2 mL | CC(=O)O | C2H4O2
solvent | acetonitrile | 100 mL | C(C)#N | C2H3N
product | N-Methyl-N-phenylaminoacetic acid | 3.96 g, 73% | CN(C1=CC=CC=C1)CC(=O)O | C9H11NO2
